### PR TITLE
[Merged by Bors] - feat: Radon-Nikodym theorem for transition kernels

### PR DESCRIPTION
**Pull request by RemyDegenne**
Let `γ` be a countably generated measurable space and `κ η : kernel α γ` be finite kernels. We build a function `rnDeriv κ η : α → γ → ℝ≥0∞` jointly measurable on `α × γ` and a kernel `singularPart κ η : kernel α γ` such that `κ = withDensity η (rnDeriv κ η) + singularPart κ η` and for all `a : α`, `singularPart κ η a ⟂ₘ η a` .

---

- [x] depends on: #10948
- [x] depends on: #10799

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Kernel/RadonNikodym.lean [hunk 1]
```diff
@@ -0,0 +1,425 @@
...
+
+* `ProbabilityTheory.kernel.mutuallySingular_singularPart`: for all `a : α`,
+  `kernel.singularPart κ η a ⟂ₘ η a`
+* `ProbabilityTheory.kernel.rnDeriv_add_singularPart`:
+  `kernel.withDensity η (kernel.rnDeriv κ η) + kernel.singularPart κ η = κ`
+* `ProbabilityTheory.kernel.measurableSet_absolutelyContinuous` : the set `{a | κ a ≪ η a}`
+  is Measurable
+* `ProbabilityTheory.kernel.measurableSet_mutuallySingular` : the set `{a | κ a ⟂ₘ η a}`
+  is Measurable
+
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/RadonNikodym.lean:37]: Could you comment a little bit more on the implementation? (And in particular on the countably generated assumption, which is not relevant for the Radon-Nikodym theorem for measures but becomes necessary here unless I am mistaken).

Comment (RemyDegenne) [reply Mathlib/Probability/Kernel/RadonNikodym.lean:57]: I added comments about the implementation and the assumption. I was not sure whether that precise countability assumption was necessary. The only reference I can find says it is, but without proof: in Probability and Stochastics, Cinlar states before theorem 4.44 that "the separability condition cannot be removed" (separability = our countably generated). There is no other comment on the question.

File: Mathlib/MeasureTheory/Measure/MeasureSpace.lean [hunk 2]
```diff
@@ -1631,6 +1631,15 @@ protected lemma add (h1 : μ₁ ≪ ν) (h2 : μ₂ ≪ ν') : μ₁ + μ₂ ≪
   simp only [add_toOuterMeasure, OuterMeasure.coe_add, Pi.add_apply, add_eq_zero] at hs ⊢
   exact ⟨h1 hs.1, h2 hs.2⟩
 
+lemma add_left_iff (μ₁ μ₂ ν : Measure α) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/MeasureSpace.lean:1634]:
```suggestion
lemma add_left_iff {μ₁ μ₂ ν : Measure α}
```
When variables can be deduced from both sides of an iff, they are typically implicit, as they can be obtained automatically when one rewrites in one direction or the other.

File: Mathlib/Probability/Kernel/RadonNikodym.lean [hunk 3]
```diff
@@ -0,0 +1,443 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Rémy Degenne
+-/
+import Mathlib.Probability.Kernel.Disintegration.Density
+import Mathlib.Probability.Kernel.WithDensity
+
+/-!
+# Radon-Nikodym derivative and Lebesgue decomposition for kernels
+
+Let `γ` be a countably generated measurable space and `κ η : kernel α γ` be finite kernels.
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/RadonNikodym.lean:12]:
```suggestion
Let `γ` be a countably generated measurable space and `κ, η : kernel α γ` be finite kernels.
```

File: Mathlib/Probability/Kernel/RadonNikodym.lean [hunk 4]
```diff
@@ -0,0 +1,443 @@
...
+  · exact (measurable_const.sub
+      ((measurable_rnDerivAux _ _).comp measurable_prod_mk_left)).ennreal_ofReal
+  · exact (measurable_const.sub (measurable_rnDerivAux _ _)).ennreal_ofReal
+  refine ae_of_all _ (fun x hx ↦ ?_)
+  simp only [mem_setOf_eq] at hx
+  simp [hx]
+
+/-- Radon-Nikodym derivative of the kernel `κ` with respect to the kernel `η`. -/
+noncomputable
+def rnDeriv (κ η : kernel α γ) (a : α) (x : γ) : ℝ≥0∞ :=
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/RadonNikodym.lean:190]: maybe
```suggestion
irreducible_def rnDeriv (κ η : kernel α γ) (a : α) (x : γ) : ℝ≥0∞ :=
```
Just to hide forever the details of the messy construction from the kernel. It will force you to unfold by hand the definition in the first few proofs below, but I guess that once the API is done you will never use the bare definition again.

File: Mathlib/Probability/Kernel/RadonNikodym.lean [hunk 5]
```diff
@@ -0,0 +1,443 @@
...
+    fun h ↦ by simp [h]⟩
+
+lemma rnDeriv_eq_top_iff' (κ η : kernel α γ) (a : α) (x : γ) :
+    rnDeriv κ η a x = ∞ ↔ x ∈ mutuallySingularSetSlice κ η a := by
+  rw [rnDeriv_eq_top_iff]
+  rfl
+
+/-- Singular part of the kernel `κ` with respect to the kernel `η`. -/
+noncomputable
+def singularPart (κ η : kernel α γ) [IsSFiniteKernel κ] [IsSFiniteKernel η] :
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/RadonNikodym.lean:222]:
```suggestion
irreducible_def singularPart (κ η : kernel α γ) [IsSFiniteKernel κ] [IsSFiniteKernel η] :
```

File: Mathlib/Probability/Kernel/RadonNikodym.lean [hunk 6]
```diff
@@ -0,0 +1,443 @@
...
+  · rfl
+  · rw [ne_eq, sub_eq_zero]
+    exact Ne.symm hx
+  · simp [rnDerivAux_le_one (le_add_of_nonneg_right bot_le)]
+  · simp [lt_of_le_of_ne (rnDerivAux_le_one (le_add_of_nonneg_right bot_le)) hx]
+
+lemma singularPart_subset_compl_mutuallySingularSetSlice [IsFiniteKernel κ]
+    [IsFiniteKernel η] {a : α} {s : Set γ} (hs : s ⊆ (mutuallySingularSetSlice κ η a)ᶜ) :
+    singularPart κ η a s = 0 := by
+  exact measure_mono_null hs (singularPart_compl_mutuallySingularSetSlice κ η a)
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/RadonNikodym.lean:267]:
```suggestion
    singularPart κ η a s = 0 :=
  measure_mono_null hs (singularPart_compl_mutuallySingularSetSlice κ η a)
```
No need for `by exact`, except in rare exotic situations.

File: Mathlib/Probability/Kernel/RadonNikodym.lean [hunk 7]
```diff
@@ -0,0 +1,443 @@
...
+        exact measure_mono_null hs (measure_mutuallySingularSetSlice κ η a)
+
+lemma withDensity_rnDeriv_mutuallySingularSetSlice (κ η : kernel α γ) [IsFiniteKernel κ]
+    [IsFiniteKernel η] (a : α) :
+    withDensity η (rnDeriv κ η) a (mutuallySingularSetSlice κ η a) = 0 := by
+  rw [kernel.withDensity_apply']
+  · exact set_lintegral_measure_zero _ _ (measure_mutuallySingularSetSlice κ η a)
+  · exact measurable_rnDeriv κ η
+
+lemma withDensity_rnDeriv_subset_mutuallySingularSetSlice [IsFiniteKernel κ]
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/RadonNikodym.lean:295]:
```suggestion
lemma withDensity_rnDeriv_of_subset_mutuallySingularSetSlice [IsFiniteKernel κ]
```
Otherwise, it sounds as iff `withDensity_rnDeriv` was a subset of something (which doesn't make sense, of course). Same thing in the next lemma.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
